US04022804
19.3 g (0.1 mole) of chloromethanesulfonic acid bromide are added in the course of 10 minutes to a solution of 14 g (0.2 mole) of 2,5-dihydrofuran and 0.5 ml of tert.-butyl hydroperoxide in 30 ml of chloroform at -40° C. After 15 minutes, 16.5 ml of triethylamine, dissolved in 20 ml of chloroform, are added dropwise at the same temperature, so as to dehydrobrominate the 3-chloromethylsulfonyl-4-bromotetrahydrofuran which has been formed. The mixture is stirred for half an hour at 20° C., washed with water, dried and concentrated. The residue is repeatedly digested with ether and the ether extract is distilled; it boils at 115°-120° C./0.2 mm Hg. 4.8 g of 3-chloromethylsulfonyl-2,5-dihydrofuran are obtained.

reactant | chloromethanesulfonic acid bromide | 0.1 mole, 19.3 g | ClCS(=O)(=O)Br | CH2BrClO2S
reactant | 2,5-dihydrofuran | 0.2 mole, 14 g | O1CC=CC1 | C4H6O
reactant | tert.-butyl hydroperoxide | 0.5 ml | C(C)(C)(C)OO | C4H10O2
reactant | 3-chloromethylsulfonyl-4-bromotetrahydrofuran | ClCS(=O)(=O)C1COCC1Br | C5H8BrClO3S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 16.5 ml | C(C)N(CC)CC | C6H15N
product | 3-chloromethylsulfonyl-2,5-dihydrofuran | 4.8 g | ClCS(=O)(=O)C=1COCC1 | C5H7ClO3S
